US08541421B2
N-(3-Cyanothiophen-2-ylcarbamoyl)benzamide
Prepared as in Example 1a from 2-aminothiophene-3-carbonitrile and benzoyl isocyanate as a white solid. 1H NMR (400 MHz, DMSO-d6) δ7.23-7.19 (m, 2H), 7.55 (t, J=8.0 Hz, 2H), 7.70-7.66 (m, 1H), 8.04-8.02 (m, 2H), 11.62 (bs, 1H), 12.18 (bs, 1H). MS 272 (MH+).

reactant | 2-aminothiophene-3-carbonitrile | NC=1SC=CC1C#N | C5H4N2S
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | N-(3-Cyanothiophen-2-ylcarbamoyl)benzamide | C(#N)C1=C(SC=C1)NC(=O)NC(C1=CC=CC=C1)=O | C13H9N3O2S
